US04166125
N-Phenylphthalimide
A mixture of phthalic anhydride (19 g) and aniline (14 g) is heated at 140° to 145° C. for 50 minutes, and to the reaction mixture is added water (50 ml). The resulting powder is collected by filtration, washed with 10% aqueous potassium carbonate solution (50 ml) and water (100 ml), and dried to give colorless powder (28 g, 97%). Recrystallization from acetic acid gives colorless needles.

reactant | phthalic anhydride | 19 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | aniline | 14 g | NC1=CC=CC=C1 | C6H7N
solvent | water | 50 ml | O | H2O
product | N-Phenylphthalimide | 28 g, 97% | C1(=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO2
